US05663164
A mixture of 2.31 g of 98% 2,2'-dipyridyl-disulfide in 25 ml of carbon tetrachloride and 2 drops of triethylamine was cooled to 0° C. with stirring and then over half-an-hour and at 0° C., 1.489 g of sulfuryl chloride in solution in 15 ml of carbon tetrachloride were introduced with stirring for a further half-an-hour at 0° C. The solution was decanted and the organic phase was evaporated to dryness under reduced pressure to obtain 2.85 g of crude unstable product. A solution of 1.60 g of 2-pyridyl-sulfenyl chloride in 25 ml of methylene chloride was added over 15 minutes to 1.70 g of 1,1-dimethylethyl 3-diazopyruvate in 50 ml of methylene chloride and the mixture was stirred for 45 minutes at ambient temperature under an inert atmosphere. A solution of 1,1-dimethylethyl 3-chloro-3-(2-pyridyl)-thio-pyruvate was obtained to which 5.18 g of 4-mercaptomethyl-3-[2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-2-oxo-1-azetidine were added all at once followed by 1.5 ml of triethylamine. The mixture was stirred for 2 hours at ambient temperature and was filtered to remove the insoluble matter and the filtrate was poured into 350 ml of water and 10 ml of 2N hydrochloric acid. After decanting the organic phase was washed with water, treated with active charcoal and dried and concentrated to dryness under reduced pressure. The residue was chromatographed on silica with elution with a mixture of methylene chloride and ethyl acetate (75-25) to obtain 4.22 g of 1,1-dimethylethyl 7-[2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-8-oxo-3-[(2-pyridyl)thio]-4-thia-1-azabicyclo[4,2,0]octane-2-hydroxy-2-carboxylate.

reactant | 2,2'-dipyridyl-disulfide | 2.31 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | sulfuryl chloride | 1.489 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-pyridyl-sulfenyl chloride | 1.60 g | N1=C(C=CC=C1)SCl | C5H4ClNS
reactant | 1,1-dimethylethyl 3-diazopyruvate | [N+](=[N-])=CC(C(=O)OC(C)(C)C)=O | C7H10N2O3
reactant | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 3-chloro-3-(2-pyridyl)-thio-pyruvate | ClC(C(C(=S)OC(C)(C)C)=O)C1=NC=CC=C1 | C12H14ClNO2S
